US08895761B2
To a mixture of sodium hydride (23.8 g, 0.595 mol) in tetrahydrofuran (400 ml) cooled to 0° C., is added a solution of 2-methyl-3-butyne-2-ol (50 g, 0.595 mol) in tetrahydrofuran (50 ml). The reaction mixture is stirred at 0° C. for 1 hour. A solution of methyl-2-bromo-propionate (99.36 g, 0.595 mol) in tetrahydrofuran (100 ml) is added to the reaction mixture slowly at 0° C. The reaction mixture is stirred at 0° C. for 2 hours and allowed to come to ambient temperature and stirred for 1 hour. The reaction mixture is cooled to 10° C. and quenched with ice cold water. The mixture is extracted with diethyl ether (3×200 ml), the organic phases are combined, washed with water, and dried over anhydrous sodium sulfate. The mixture is filtered and the filtrate is evaporated under reduced pressure to give 2-(1,1-dimethylprop-2-ynyloxy)propionic acid methyl ester (90 g) as a colorless oil, used without further purification in the next step.

reactant | sodium hydride | 0.595 mol, 23.8 g | [H-].[Na+]
reactant | 2-methyl-3-butyne-2-ol | 0.595 mol, 50 g | CC(C)(C#C)O | C5H8O
reactant | methyl-2-bromo-propionate | 0.595 mol, 99.36 g | COC(C(C)Br)=O | C4H7BrO2
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(1,1-dimethylprop-2-ynyloxy)propionic acid methyl ester | 90 g | COC(C(C)OC(C#C)(C)C)=O | C9H14O3
